US06635778B1
b) Preparation of 1-tertbutylamino-2-cyclopentadienyl-1,1-dimethylsilaethane
32.7 ml of a 2.3 M solution (75 mmol) of sodium cyclopentadienide in tetrahydrofurane was added to a solution of 11.4 g (51 mmol) of 2-bromo-1-tertbutylamino-1,1-dimethylsilaethane. The immediate formation of a pinkish solid was observed, the reaction was continued for 8 hours, then it was concentrated to dryness and it was extracted with hexane, the resulting solution was evaporated in order to give a yellow oil, that corresponds to a mixture of isomers (12.5 g, 60 mmol, yield: 80%). 1H-NMR (CDCl3): 6.5-5.75(m,3H), 2.95(m,2H), 1.90(m,2H), 1.20(s,9H), 0.10(s,6H).

reactant | sodium cyclopentadienide | [CH-]1C=CC=C1.[Na+]
reactant | 2-bromo-1-tertbutylamino-1,1-dimethylsilaethane | 51 mmol, 11.4 g | BrC[Si](C)(C)NC(C)(C)C | C7H18BrNSi
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | 1-tertbutylamino-2-cyclopentadienyl-1,1-dimethylsilaethane | yield: 80% | C(C)(C)(C)N[Si](CC1C=CC=C1)(C)C | C12H23NSi
